US05756769
An aqueous 28% ammonia solution (12.1 g, 200 mmol) and o-chlorobenzaldehyde (3.65 g, 26 mmol) were mixed and a solution prepared by dissolving propargyl methanesulfonate (2.68 g, 20 mmol) in 10.7 g of toluene was added dropwise at 20° C. over 0.6 hour to the solution, followed by stirring at the same temperature for 10 hours. After separating, the resulting organic phase was concentrated to obtain a crude product of N-(2-chlorobenzylidene)-2-propynylamine.

reactant | ammonia | 200 mmol, 12.1 g | N | H3N
reactant | o-chlorobenzaldehyde | 26 mmol, 3.65 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | propargyl methanesulfonate | 20 mmol, 2.68 g | CS(=O)(=O)OCC#C | C4H6O3S
solvent | toluene | 10.7 g | C1(=CC=CC=C1)C | C7H8
product | N-(2-chlorobenzylidene)-2-propynylamine | ClC1=C(C=NCC#C)C=CC=C1 | C10H8ClN
